US06087380
3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 53% of theory, C28H30N6O3 (498.59) Rf value: 0.42 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5) ##EQU136##

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C#N)C)CCC(=O)OC
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 53% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC | InChI=1S/C28H30N6O3.ClH/c1-3-37-26(35)14-17-34(24-6-4-5-15-31-24)28(36)22-13-16-33-19(2)23(32-25(33)18-22)12-9-20-7-10-21(11-8-20)27(29)30;/h4-8,10-11,13,15-16,18H,3,9,12,14,17H2,1-2H3,(H3,29,30);1H
